US07662830B2
1. 5-Chloro-6-(3-(R)-methyl-piperazin-1-yl)-nicotinic acid ethyl ester
Heat a solution of (R)-2-methyl-piperazine (0.07 mol), 5,6-dichloro-nicotinic acid ethyl ester (TCI America) (10.1 g, 0.046 mol) and potassium carbonate (31.7 g, 0.23 mol) in DMA at 110° C. for 48 h. Cool the solution, and partition between EtOAc and brine. Separate the layers and extract the aqueous portion with EtOAc (1×). Wash the combined organic layers with 10% NaOH (4×), dry (Na2SO4), and concentrate under reduced pressure to give an oil which crystallizes on standing.

reactant | (R)-2-methyl-piperazine | 0.07 mol | C[C@H]1NCCNC1 | C5H12N2
reactant | 5,6-dichloro-nicotinic acid ethyl ester | 0.046 mol, 10.1 g | C(C)OC(C1=CN=C(C(=C1)Cl)Cl)=O | C8H7Cl2NO2
reactant | potassium carbonate | 0.23 mol, 31.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 5-Chloro-6-(3-(R)-methyl-piperazin-1-yl)-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)Cl)N1C[C@H](NCC1)C)=O | C13H18ClN3O2
